US07183445B2
To a solution of 1-methyl-3,4-di(4-benzyloxy-phenyl)-cyclohex-3-ene carbaldehyde (200 mg, 0.409 mmol) in MeOH (10.0 mL) at −10° C. was added NaBH4 (100 mg, excess). The reaction mixture was stirred 30 min and then quenched with 51% HCl solution (5 mL), extracted with ethyl acetate (50 mL) and dried over MgSO4. The reaction mixture was then concentrated and purified on SiO2 (50% ethyl acetate/hexane) to yield (1-methyl-3,4-di(4-benzyloxy-phenyl)-cyclohex-3-enyl)-methanol.

reactant | 1-methyl-3,4-di(4-benzyloxy-phenyl)-cyclohex-3-ene carbaldehyde | 0.409 mmol, 200 mg | CC1(CC(=C(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C=O | C34H32O3
reactant | NaBH4 | 100 mg | [BH4-].[Na+]
solvent | MeOH | 10.0 mL | CO | CH4O
product | (1-methyl-3,4-di(4-benzyloxy-phenyl)-cyclohex-3-enyl)-methanol | CC1(CC(=C(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)CO | C34H34O3
